US09079866B2
5-{5-[2-(Morpholin-4-ylmethyl)-4-(trifluoromethyl)phenyl]pyridin-2-yl}pyrimidin-2-amine
The title compound was prepared in a manner similar to that described in Example 427 using 5-(5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl)pyrimidin-2-amine and 4-(2-bromo-5-(trifluoromethyl)benzyl)morpholine. MS (ESI): mass calcd. for C21H20F3N5O, 415.16; m/z found, 416.0 [M+H]+. 1H NMR (500 MHz, CD3OD) δ 8.96 (s, 2H), 8.67 (dd, J=2.3, 0.9, 1H), 7.97 (dd, J=8.2, 2.3, 1H), 7.89 (dd, J=8.2, 0.9, 1H), 7.86-7.84 (m, 1H), 7.72-7.65 (m, 1H), 7.52 (d, J=7.9, 1H), 3.63-3.58 (m, 4H), 3.54-3.48 (m, 2H), 2.41-2.28 (m, 4H).

reactant | 5-(5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl)pyrimidin-2-amine | CC1(OB(OC1(C)C)C=1C=CC(=NC1)C=1C=NC(=NC1)N)C | C15H19BN4O2
reactant | 4-(2-bromo-5-(trifluoromethyl)benzyl)morpholine | BrC1=C(CN2CCOCC2)C=C(C=C1)C(F)(F)F | C12H13BrF3NO
product | 5-{5-[2-(Morpholin-4-ylmethyl)-4-(trifluoromethyl)phenyl]pyridin-2-yl}pyrimidin-2-amine | N1(CCOCC1)CC1=C(C=CC(=C1)C(F)(F)F)C=1C=CC(=NC1)C=1C=NC(=NC1)N | C21H20F3N5O
